US07714010B2
5-(2-Hydroxy-2-phenyl-ethyl)-2-(4-methoxy-phenyl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
To a mixture of 2-(4-methoxy-phenyl)-7,7-dimethyl-5-(2-oxo-2-phenyl-ethyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (33 mg) and trifluoroacetic acid (77 μl) is added drop-wise SiEt3 (30 μl) at RT for 48 h. The mixture is concentrated in vacuo and the residue is taken-up in MeOH (5 ml), CH2Cl2 (5 ml) and saturated NaHCO3 solution. The resulting solution is stirred at RT for 30 min, neutralized with hydrochloric acid (1 N) and extracted with CH2Cl2. The organic layer is washed with water, dried over MgSO4 and evaporated. The desired compound (15 mg) is obtained by preparative RP-HPLC, eluted with a water/MeCN gradient.

reactant | 2-(4-methoxy-phenyl)-7,7-dimethyl-5-(2-oxo-2-phenyl-ethyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 33 mg | COC1=CC=C(C=C1)C1=NC=2C(=CC=3C(C(N(C3C2)CC(C2=CC=CC=C2)=O)=O)(C)C)N1 | C26H23N3O3
reactant | trifluoroacetic acid | 77 μl | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-Hydroxy-2-phenyl-ethyl)-2-(4-methoxy-phenyl)-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 15 mg | OC(CN1C(C(C=2C=C3C(=CC12)N=C(N3)C3=CC=C(C=C3)OC)(C)C)=O)C3=CC=CC=C3 | C26H25N3O3
